US08710043B2
Step 3. (S)-2-Amino-4-(((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)phenyl Acetate
To a round bottom flask purged with N2 was added 10% Pd/C (20.29 mg, 0.019 mmol) and under a N2 atmosphere (S)-4-(((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)-2-nitrophenyl acetate (91 mg, 0.191 mmol) in EtOAc (10 mL) was added. The solution was purged for a further 2 min, then capped with a balloon of H2. After 5 h, the reaction was filtered through a pad of Celite® brand filter agent and the Celite® brand filter agent rinsed with EtOAc. The filtrate was concentrated in vacuo and adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (4 g), eluting with 0 to 75% EtOAc in hexane, to provide the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 9.85 (s, 1H), 8.35-8.54 (m, 2H), 8.19 (s, 1H), 7.66 (d, J=2.2 Hz, 1H), 7.59 (dd, J=8.5, 2.0 Hz, 1H), 7.55 (s, 4H), 7.38-7.47 (m, 1H), 7.32 (dt, J=8.4, 4.3 Hz, 1H), 7.04 (d, J=8.3 Hz, 1H), 6.62 (dd, J=6.9, 2.0 Hz, 1H), 2.20 (s, 3H). MS (ESI pos. ion) m/z: 448.1 (M+H).

reactant | (S)-4-(((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)-2-nitrophenyl acetate | 0.191 mmol, 91 mg | C(C)(=O)OC1=C(C=C(C=C1)C(N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1F)=O)[N+](=O)[O-] | C22H15F4N3O5
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.019 mmol, 20.29 mg | [Pd] | Pd
product | (S)-2-Amino-4-(((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)phenyl Acetate | C(C)(=O)OC1=C(C=C(C=C1)C(N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1F)=O)N | C22H17F4N3O3
